US07179835B2
3-(Cyclopropylmethyl-amino)-propionitrile
With stirring and cooling in an ice-bath to maintain a temperature of 8–10° C., acrylonitrile (0.614 ml) was added to aminomethylcyclopropane (0.651 g). The resultant mixture was stirred at room temperature for 15 h to give the title compound (1.02 g) as a yellow oil.

reactant | acrylonitrile | 0.614 ml | C(C=C)#N | C3H3N
reactant | aminomethylcyclopropane | 0.651 g | NCC1CC1 | C4H9N
product | 3-(Cyclopropylmethyl-amino)-propionitrile | 1.02 g | C1(CC1)CNCCC#N | C7H12N2
